US07709649B2
To a solution of 2-chloro-3-bromo-5-hydroxymethylpyridine (1.0 g, 4.5 mmol) in dichloromethane (20 mL) at 25° C. was added thionyl chloride (361 μL, 4.9 mmol) dropwise. The solution was stirred for 5 h, after which the reaction was quenched with saturated aqueous NaHCO3 and the layers separated. The aqueous phase further extracted with EtOAc (3×) and the combined organic phases dried over MgSO4 and concentrated to furnish 2-chloro-3-bromo-5-chloromethylpyridine as a yellow solid (0.68 g, 63%). GC-MS: Exact mass calcd for C6H5BrCl2N [M+H]+, 241. Found 241.

reactant | 2-chloro-3-bromo-5-hydroxymethylpyridine | 4.5 mmol, 1.0 g | ClC1=NC=C(C=C1Br)CO | C6H5BrClNO
reactant | thionyl chloride | 4.9 mmol, 361 μL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-chloro-3-bromo-5-chloromethylpyridine | 0.68 g, 63% | ClC1=NC=C(C=C1Br)CCl | C6H4BrCl2N
